US08383827B2
Step 4: Synthesis of N-((5-(6-cyanonaphthalen-2-yl)pyridin-3-yl)(cyclopropyl)methyl)ethane-sulfonamide
A mixture of 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthonitrile (335 mg, 1.200 mmol), N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide (319 mg, 1 mmol), sodium carbonate (2 M) in water (1.000 mL, 2.000 mmol), PdCl2(dppf).CH2Cl2 adduct (40.8 mg, 0.050 mmol) in DMF (4.000 mL) was heated to 100° C. for 30 min. The mixture was quenched with saturated aqueous NaHCO3 and extracted with EtOAc two times, dried over magnesium sulfate, filtered, concentrated. The residue was purified via Biotage (10-100% EtOAc/heptane; SNAP25 column) giving the title compound (106 mg, 27%) as a white solid 1H NMR (400 MHz, MeOD) δ ppm 0.43-0.55 (m, 1H) 0.56-0.69 (m, 2H) 0.69-0.83 (m, 1H) 1.28 (t, J=7.36 Hz, 3H) 1.25-1.39 (m, 1H) 2.82-3.10 (m, 2H) 3.95 (d, J=9.09 Hz, 1H) 7.73 (dd, J=8.53, 1.45 Hz, 1H) 8.00 (dd, J=8.59, 1.71 Hz, 1H) 8.15 (s, 1H) 8.17 (s, 1H) 8.28-8.35 (m, 2H) 8.44 (s, 1H) 8.65 (d, J=2.02 Hz, 1H) 8.90 (d, J=2.08 Hz, 1H). LC-MS (M+1) 392.2. Enantiomers were separated by chiral HPLC (IA 21×250 mm, flow rate: 14 mL/min, 60% heptane 20% methanol 20% ethanol) and yielded enantiomer-1 with retention time (14.10 min) and enantiomer-2 with retention time (18.16 min).

reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthonitrile | 1.200 mmol, 335 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C#N)C | C17H18BNO2
reactant | N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide | 1 mmol, 319 mg | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1 | C11H15BrN2O2S
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2.000 mmol, 1.000 mL | O | H2O
reactant | CH2Cl2 | 0.050 mmol, 40.8 mg | C(Cl)Cl | CH2Cl2
solvent | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 4.000 mL | CN(C)C=O | C3H7NO
product | N-((5-(6-cyanonaphthalen-2-yl)pyridin-3-yl)(cyclopropyl)methyl)ethane-sulfonamide | 106 mg, 27% | C(#N)C=1C=C2C=CC(=CC2=CC1)C=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1 | C22H21N3O2S
